US09084794B2
a) 2-(4-bromo-2,6-difluorophenyl)acetic acid
A suspension of 2-(4-bromo-2,6-difluorophenyl)acetamide (7.20 mmol) in ethanol (10 mL) was treated with 6N aq sodium hydroxide (90 mmol) at room temperature. The vessel was then stirred in an oil bath at 80° C. After one hour the reaction mixture had turned clear. After stirring overnight, the reaction mixture was cooled to room temperature, at which point the pH was adjusted to ˜1 with 6N aq HCl. A white precipitate formed, and the solution was concentrated to a volume of ˜10 mL, at which point it was extracted three times with ethyl acetate. The combined organic layers were washed twice with brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford the title compound as a solid (837 mg, 41% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 3.60 (s, 2 H) 7.49 (d, J=6.82 Hz, 2 H) 12.82 (br. s., 1 H).

reactant | 2-(4-bromo-2,6-difluorophenyl)acetamide | 7.20 mmol | BrC1=CC(=C(C(=C1)F)CC(=O)N)F | C8H6BrF2NO
reactant | sodium hydroxide | 90 mmol, 6N | [OH-].[Na+]
reactant | HCl | 6N | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-(4-bromo-2,6-difluorophenyl)acetic acid | 837 mg, 41% yield | BrC1=CC(=C(C(=C1)F)CC(=O)O)F | C8H5BrF2O2
